US08470866B2
A solution of (S)—N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-4-methylsulfanyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-butyramide (26 mg, 0.05 mmol) in tetrahydrofuran (1 mL) was treated with a 1N aqueous hydrochloric acid solution (1 mL) and stirred at room temperature overnight. The reaction mixture was then concentrated in vacuo to remove the tetrahydrofuran and the remaining material was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic layer was separated and dried over magnesium sulfate, filtered to remove the drying agent and the filtrate concentrated in vacuo to afford (S)—N-[5-((S)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-4-methylsulfanyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-butyramide (20 mg, 85%) as a pale yellow gum: HR-ES(+) m/e calcd for C20H21N4O4SF3 [M+H]+ 471.1309, observed 471.1306; 1H NMR (400 MHz, DMSO-d6) δ 11.15 (s, 1H), 9.16 (s, 1H), 8.44 (d, J=1.28 Hz, 1H), 8.02 (t, J=7.46 Hz, 2H), 7.71-7.81 (m, 1H), 5.55 (d, J=4.90 Hz, 1H), 5.18 (dd, J=5.01, 9.48 Hz, 1H), 4.93-5.02 (m, 1H), 4.77-4.87 (m, 1H), 4.72 (t, J=5.86 Hz, 1H), 4.58-4.66 (m, 1H), 3.61-3.71 (m, 1H), 3.55 (td, J=5.86, 11.29 Hz, 1H), 2.48-2.65 (m, 3H), 2.22-2.38 (m, 1H), 2.09 (s, 3H).

reactant | (S)—N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-4-methylsulfanyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-butyramide | 0.05 mmol, 26 mg | CC1(OC[C@@H](O1)C=1N=CC(=NC1)NC([C@H](CCSC)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)=O)C | C23H25F3N4O4S
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (S)—N-[5-((S)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-4-methylsulfanyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-butyramide | 20 mg, 85% | O[C@H](CO)C=1N=CC(=NC1)NC([C@H](CCSC)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)=O | C20H21F3N4O4S
